US07960394B2
6-Methoxy-3-methyl-2-[4-(1-cyclobutyl-4-piperidinyloxy)-phenyl]-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 85 but using 2-amino-5-methoxybenzoic acid, methylamine, 4-methoxybenzaldehyde, tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate, and cyclobutanone.

reactant | 2-amino-5-methoxybenzoic acid | NC1=C(C(=O)O)C=C(C=C1)OC | C8H9NO3
reactant | methylamine | CN | CH5N
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | 6-Methoxy-3-methyl-2-[4-(1-cyclobutyl-4-piperidinyloxy)-phenyl]-4(3H)-quinazolinone | COC=1C=C2C(N(C(=NC2=CC1)C1=CC=C(C=C1)OC1CCN(CC1)C1CCC1)C)=O | C25H29N3O3
